US08242104B2
Methyl 2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate
A mixture of methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate (370.1 mg, 1.000 mmol), 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (354 mg, 1.50 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (40.8 mg, 0.0500 mmol) and 2.0 M of Potassium acetate in water (1.00 mL) in Acetonitrile (12 mL, 230 mmol) was degassed. The reaction was microwaved on 200 watts, 140° C. for 30 minutes. The reaction mixture was partitioned between water and ethyl acetate, filtered, the organic layer was washed with water, brine, dried over MgSO4 and concentrated in vacuum. The residue was purified on 12 g silica column eluting with 35-40% ethyl acetate in heptane. Yield 119 mg (34%). MS: (ESI+): 353.1.

reactant | methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 1.000 mmol, 370.1 mg | IC=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C13H11IN2O3
reactant | 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.50 mmol, 354 mg | C(C)(C)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O2
reactant | dichloromethane | 0.0500 mmol, 40.8 mg | ClCCl | CH2Cl2
reactant | Potassium acetate | 2.0 M | C(C)(=O)[O-].[K+]
reactant | Acetonitrile | 230 mmol, 12 mL | C(C)#N | C2H3N
solvent | water | 1.00 mL | O | H2O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | C(C)(C)N1N=CC=C1C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C19H20N4O3
